US04943591
(a) N-[6-(2-Phenylethoxy)hexyl]benzenemethanamine
[2-[(6-Bromohexyl)oxy]ethyl]benzene (4.0 g) was added dropwise to benzylamine (20 ml) at 110°. The solution was heated at 110°-120° for 90 min, cooled, and treated with hydrochloric acid (2M; 125 ml). The mixture was extracted with EA (2×100 ml) and the extract was washed with aqueous sodium carbonate (100 ml) and brine (100 ml), dried and evaporated. Distillation of the residue gave the title compound as a colourless oil (3.2 g) b.p. 180°-190°/0.1 mmHg. T.l.c. (CX-ER 1:1) Rf 0.25.

reactant | [2-[(6-Bromohexyl)oxy]ethyl]benzene | 4.0 g | BrCCCCCCOCCC1=CC=CC=C1 | C14H21BrO
reactant | hydrochloric acid | 2M, 125 ml | Cl | ClH
reactant | benzylamine | 20 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-[6-(2-Phenylethoxy)hexyl]benzenemethanamine | 3.2 g | C1(=CC=CC=C1)CCOCCCCCCNCC1=CC=CC=C1 | C21H29NO
